US04258186
With 185 g 1,3-diaminopropane, 136 g benzoic acid methyl ester were reacted under pressure at 200° C. in the reactor. After 3 hours, the excess of diamine was distilled off, and the 2-phenyl-tetrahydropyrimidine was isolated in a 79% yield. Boiling point 165° C./1 mm; melting point=86°-87° C.

reactant | 1,3-diaminopropane | 185 g | NCCCN | C3H10N2
reactant | benzoic acid methyl ester | 136 g | COC(C1=CC=CC=C1)=O | C8H8O2
product | 2-phenyl-tetrahydropyrimidine | 79% yield | C1(=CC=CC=C1)C1NC=CCN1 | C10H12N2
